US05091553
1.88 g of ethylenediamine (0.031 mol) were added dropwise at room temperature with stirring to 100 ml of a solution of 10 g of triethylammonium isocyanate (0.069 mol) in 100 ml of N-methylpyrrolidone, prepared according to the procedure described in example i. After stirring at room temperature for 24 hours, the reaction mixture was heated to reflux for one hour, the solvent was evaporated and the residue was recrystallized from water. 3.4 g, i.e. 75% of theory, of ethylenediurea were obtained in this way.

reactant | ethylenediamine | 0.031 mol, 1.88 g | C(CN)N | C2H8N2
reactant | triethylammonium isocyanate | 0.069 mol, 10 g | [N-]=C=O.C(C)[NH+](CC)CC
reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | ethylenediurea | C(CNC(=O)N)NC(=O)N | C4H10N4O2
